US04112112
2-Carboxy-11-(3-dimethylaminopropylidene)-11H-pyrrolo[2,1-b][3]benzazepine (99 mmoles) in 100 ml. of thionyl chloride is refluxed for 15 minutes. The volatiles are removed under vacuum and the residue is triturated in ether. Filtration and air drying yields 2-chlorocarbonyl-11-(3-dimethylaminopropylidene)-11H-pyrrolo[2,1-b][3]benzazepine.

reactant | 2-Carboxy-11-(3-dimethylaminopropylidene)-11H-pyrrolo[2,1-b][3]benzazepine | 99 mmoles | C(=O)(O)C=1C=C2C(C3=C(C=CN2C1)C=CC=C3)=CCCN(C)C | C19H20N2O2
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | 2-chlorocarbonyl-11-(3-dimethylaminopropylidene)-11H-pyrrolo[2,1-b][3]benzazepine | ClC(=O)C=1C=C2C(C3=C(C=CN2C1)C=CC=C3)=CCCN(C)C | C19H19ClN2O
